US05468867
A mixture of 1-butyl-2-{2'-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-biphenyl-4-yl(hydroxy)methyl}-1H-indole-3-carboxylic acid (2.5 g, 3.52 mmol) and 10% palladium on carbon (1.2 g) in 20 mL of acetic acid and 80 mL of THF under a hydrogen atmosphere (200 psi) at 48° C. for approximately 48 hours. The mixture was then cooled, filtered and diluted with 500 mL of water. The mixture was extracted with 100 mL of ethyl acetate and the ethyl acetate layer was washed three times with water. The ethyl acetate layer was concentrated to give 1-butyl-2-[2'-(2H-tetrazol-5-yl)biphenyl-4-ylmethyl]-1H-indole-3-carboxylic acid (1.2 g, 2.66 mmol).

reactant | 1-butyl-2-{2'-[2-(triphenylmethyl)-2H-tetrazol-5-yl]-biphenyl-4-yl(hydroxy)methyl}-1H-indole-3-carboxylic acid | 3.52 mmol, 2.5 g | C(CCC)N1C(=C(C2=CC=CC=C12)C(=O)O)C(O)C1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NN(N1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C46H39N5O3
catalyst | palladium on carbon | 1.2 g | [Pd] | Pd
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | THF | 80 mL | C1CCOC1 | C4H8O
product | 1-butyl-2-[2'-(2H-tetrazol-5-yl)biphenyl-4-ylmethyl]-1H-indole-3-carboxylic acid | 2.66 mmol, 1.2 g | C(CCC)N1C(=C(C2=CC=CC=C12)C(=O)O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C=1N=NNN1 | C27H25N5O2
